Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
shellfish derived / avocado
 
Attending: ___.
 
Chief Complaint:
back pain
 
Major Surgical or Invasive Procedure:
___ aspiration of para-vertebral fluid collection. 

 
History of Present Illness:
Mr. ___ is a ___ man with history of injection 
drug use who presented to an outside hospital with back pain and 
was found to have sacroiliac osteomyelitis, transferred to ___ 
for further management.

The patient reports that he initially developed right lower back 
pain on ___. He works for ___, and was lifting a box at work 
when he developed the acute onset of severe right-sided lower 
back pain that radiated down his right leg. The patient 
progressively worsened that night and it was too painful to 
walk. He presented to the ED that night and returned again on 
___. He was treated with a solumedol dosepack and oxycodone. He 
was then seen at an Urgent Care on ___ where he reports that he 
was given an intramuscular injection of Toradol into his right 
buttock. However, he continued to have ongoing right back pain 
associated with weakness and difficulty bearing weight. No bowel 
or bladder changes. No saddle anesthesia. No fevers or chills. 

Given his persistent pain and inability to ambulate, he 
presented again to ___ for evaluation on ___. 
There, imaging demonstrated septic arthritis/osteomyelitis of 
the right sacroiliac joint versus an inflammatory sacroiliitis. 
Labs on ___ notable for: WBC 9.8, Hb 12.4, plt 426. Na 137, L 
4.9, Cl 97, HCO3 31, BUN/Cr ___. ESR 53 (___). Patient was 
initially on vancomycin/Zosyn and then switched to 
Unasyn/gentamicin. It appears that blood cultures have had no 
growth.

On arrival to the floor, the patient reports that his back pain 
is a ___, but overall he feels much improved since initiating 
antibiotics. He denies any other complaints at this time. He 
denies any injection drug use. Denies any rashes or skin 
lesions.

ROS: Pertinent positives and negatives as noted in the HPI. All 
other systems were reviewed and are negative. 
 
Past Medical History:
- Depression
- Prior injection drug use
- Tobacco use
 
Social History:
___
Family History:
No known family history of recurrent infections.
Mother with ___. Father with epilepsy.
 
Physical Exam:
Mr. ___ is a ___ man with history of injection 
drug use who presented to an outside hospital with back pain and 
was found to have sacroiliac osteomyelitis, transferred to ___ 
for further management.

ACUTE/ACTIVE PROBLEMS: # Sacroiliac osteomyelitis: # ? 
Endocarditis (versus redundant triscuspid valve) Patient 
presented to an outside hospital with back pain and found on 
imaging (CT, MRI, bone scan) to have evidence septic 
arthritis/osteomyelitis of the right sacroiliac joint with 
inflammation of surrounding paraspinal muscles. ? vegetation on 
triscupid versus redundant valve tissue. Aspiration culture 
growing MSSA. Now s/p PICC with plan for home abx. 

- Continue cefazolin 2g IV q8h for tentative 6 week course, will 
follow up with ID to determine final duration. - Pain control 
with Tylenol, Toradol, lidocaine patch - ID team consulted, 
apprec recs (now with final OPAT recs in Chart) 

CHRONIC/STABLE PROBLEMS: 
# Nicotine dependence: - Patient declined nicotine replacement 
therapy 
 
Pertinent Results:
ADMISSION/SIGNIFICANT LABS:
========================
___ 06:09AM BLOOD WBC-7.4 RBC-4.26* Hgb-12.1* Hct-39.0* 
MCV-92 MCH-28.4 MCHC-31.0* RDW-13.5 RDWSD-45.1 Plt ___
___ 06:09AM BLOOD Glucose-99 UreaN-25* Creat-0.7 Na-140 
K-4.7 Cl-99 HCO3-26 AnGap-15
___ 06:09AM BLOOD CRP-64.6*

MICRO:
======
FLUID CULTURE (Preliminary): 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------<=0.25 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------<=0.12 S
OXACILLIN-------------   0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S

IMAGING/OTHER STUDIES: 
====================
ECHO
IMPRESSION: Moderate, mobile echodensity on the ?anterior 
leaflet of the tricuspid valve in the setting of at least mild 
tricuspid regurgitation consistent with redundant leaflets vs 
vegetation thrombus. Clinical correlation is suggested. 
Preserved biventricular systolic function. Normal pulmonary 
pressure.

OSH Imaging: 
- Bone scan (___): Impression: Abnormal increased activity
seen on vascular, blood pool, and delayed images of the right
sacroiliac joint. This correlate to prior images that show a
small amount of fluid within the right sacroiliac joint as well
as extensive abnormal soft tissue edema of the right iliopsoas
muscle and the right posterior paraspinal muscles. Findings are
most consistent with septic arthritis/osteomyelitis of the right
sacroiliac joint versus an inflammatory sacroiliitis.

- CT Pelvis with contrast (___): Impression: Minimal initial
transient focal enhancement in the right iliac this muscle
without definable abscess or fluid collection by CT scan or
persistence of enhancement on delayed imaging. Mild enlargement
of the right iliopsoas muscle. Otherwise normal CT scan of the
pelvis. Without a definable target, an aspiration is not
attempted at this time.

- CT Lumbar spine without contrast (___): Impression: The
osseous structure of the lumbar spine are normal. Mild
degenerative disk disease at L5-S1.

- MRI Pelvis with and without contrast (___): Impression:
Peripherally enhancing loculated fluid collection within the
right iliacus muscle. Highly concerning for abscess. Possible
hematoma. There is surrounding regional inflammation and
enhancement with mild edema within the L5 and S1 vertebral 
bodies
as described. Possible extension to the sacroiliac joint.

- MRI Lumbar spine without contrast (___): Impression:
Partially visualized heterogeneous fluid collection with
surrounding edema centered in the right iliacus muscle,
concerning for hematoma or abscess.

LABS AT DISCHARGE: 
=================
___ 05:10AM BLOOD WBC-7.1 RBC-3.85* Hgb-10.8* Hct-34.7* 
MCV-90 MCH-28.1 MCHC-31.1* RDW-13.1 RDWSD-43.6 Plt ___
___ 05:10AM BLOOD Glucose-92 UreaN-26* Creat-0.6 Na-137 
K-4.9 Cl-100 HCO3-30 AnGap-7*
___ 05:10AM BLOOD ALT-61* AST-68* AlkPhos-76 TotBili-0.2
___ 06:09AM BLOOD CRP-64.6*
___ 05:10AM BLOOD CRP-19.6*
 
Brief Hospital Course:
Mr. ___ is a ___ man with history of injection 
drug use who presented to an outside hospital with back pain and 
was found to have sacroiliac osteomyelitis, transferred to ___ 
for further management.

 # Sacroiliac osteomyelitis: 
# possible Endocarditis (versus redundant triscuspid valve):
Patient presented to an outside hospital with back pain and 
found on imaging (CT, MRI, bone scan) to have evidence septic 
arthritis/osteomyelitis of the right sacroiliac joint with 
inflammation of surrounding paraspinal muscles. He underwent 
___ with cultures growing MSSA. ID was consulted and 
he was discharged to complete six weeks of Cefazolin 2g IV q8h  
(Projected End Date:  ___. He will be seen in the ___ 
clinic, who will also oversee weekly labs while on home IV 
antibiotics. 

> 30 days spent on discharge planning

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever  
2.  CeFAZolin 2 g IV Q8H 
RX *cefazolin in dextrose (iso-os) 2 gram/50 mL 2 g IV every 
eight (8) hours Disp #*84 Intravenous Bag Refills:*0 
3.  Ibuprofen 400-600 mg PO Q8H:PRN Pain - Mild  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
# S. aureus SI joint septic arthritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

It was a priviliege to care for you at the ___ 
___. You were admitted for back pain due to a serious 
bacterial infection. You will need to take a prolonged course of 
IV antibiotics to properly clear this infection. It is now safe 
to be discharged home to continue treatment. 

Please continue to take all medications as prescribed and follow 
up with all appointments as detailed below. 

We wish you the best! 

Sincerely,

Your ___ team

 
Followup Instructions:
___